US04877802
A solution of sodium hydroxide (7.8 g, 0.195 mol) in water (20 ml) was added to a solution of 2,4,6-trichlorophenol (38.0 g, 0.192 mol) in ethanol (200 ml). 1,2-dibromoethane (47 g, 0.25 mol) was then added and the resultant mixture was refluxed overnight. On cooling, the solid was filtered off and the filtrate concentrated under reduced pressure. Ether was added to the residue and the solution was then washed with dilute sodium hydroxide solution and dried over anhydrous magnesium sulphate. After removal of the solvent by evaporation, the residue was recrystallised from ethanol to give 1-bromo-2-(2,4,6-trichlorophenoxy)ethane as a white solid (39.4 g). A mixture of the 1-bromo-2-(2,4,6-trichlorophenoxy) ethane (20.0 g, 0.066 mol), triethylamine (6.7 g, 0.066 mol) and propylamine (3.9 g, 0.066 mol) in ethanol (500 ml) was then refluxed overnight. After removal of the solvent by evaporation, the residue was dissolved in ether, washed with water and dried (MgSO4). Evaporation of the solvent left an oil which, after flash chromatography on silica gel using chloroform as the eluant, yielded N-propyl-N-2-(2,4,6-trichlorophenoxy)ethylamine as an oil (12.6 g).

reactant | sodium hydroxide | 0.195 mol, 7.8 g | [OH-].[Na+]
reactant | 2,4,6-trichlorophenol | 0.192 mol, 38.0 g | ClC1=C(C(=CC(=C1)Cl)Cl)O | C6H3Cl3O
reactant | 1,2-dibromoethane | 0.25 mol, 47 g | BrCCBr | C2H4Br2
solvent | water | 20 ml | O | H2O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 1-bromo-2-(2,4,6-trichlorophenoxy)ethane | 39.4 g | BrCCOC1=C(C=C(C=C1Cl)Cl)Cl | C8H6BrCl3O
